US08664220B2
Step 5: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide
To [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid ethyl ester (0.114 g, 0.37 mmol) in EtOH (4 mL) was added hydrazine (1M in THF; 2 mL), and the reaction was sealed and stirred at 80° C. overnight. The mixture was poured into brine and extracted with EtOAc. The combined organic layers were washed with H2O and brine, and then dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid ethyl ester | 0.37 mmol, 0.114 g | C(C)OC(CC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C14H14BrNO3
reactant | hydrazine | 1M, 2 mL | NN | H4N2
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | brine | [Cl-].[Na+].O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC(=O)NN | C12H12BrN3O2
